US04711896
3,3,14,14-Tetraphenylhexadecane-1,16-dioic acid
0.27 g. 3,3,14,14-Tetraphenyl-6,11-diketohexadecane-1,16-dioic acid, prepared according to Example 23, and 0.23 g. 85% hydrazine hydrate were added to a solution of 0.4 g. KOH in 10 ml. triethylene glycol. The mixture was heated for 24 hours at 120° C., subsequently heated to 195° C. in order to evaporate the water and then boiled under reflux for 7 hours. The mixture was cooled, diluted with water, extracted with ether, acidified and extracted with ether. The ether extract was washed with water, dried over anhydrous magnesium sulphate and evaporated to dryness.

reactant | 3,3,14,14-Tetraphenyl-6,11-diketohexadecane-1,16-dioic acid | C1(=CC=CC=C1)C(CC(=O)O)(CCC(CCCCC(CCC(CC(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O)C1=CC=CC=C1 | C40H42O6
reactant | hydrazine hydrate | O.NN
reactant | KOH | [OH-].[K+]
reactant | triethylene glycol | C(COCCOCCO)O | C6H14O4
product | 3,3,14,14-Tetraphenylhexadecane-1,16-dioic acid | C1(=CC=CC=C1)C(CC(=O)O)(CCCCCCCCCCC(CC(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C40H46O4
